US04552891
B. Preparation of methyl 5-ethoxy-6-propyloxybenzothiophene-2-carboxylate
A solution of 0.42 g. of methyl 5-ethoxy-6-hydroxybenzothiophene-2-carboxylate, 0.25 g. of potassium carbonate, a catalytic amount of potassium iodide, and 0.31 g. of propyl iodide in methyl ethyl ketone was heated to reflux for 48 hours. The hot solution was filtered and the filtrate was evaporated in vacuo to provide the desired subtitle intermediate which was used in the subsequent reaction without purification.

reactant | methyl 5-ethoxy-6-hydroxybenzothiophene-2-carboxylate | C(C)OC=1C(=CC2=C(C=C(S2)C(=O)OC)C1)O | C12H12O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | propyl iodide | C(CC)I | C3H7I
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | methyl 5-ethoxy-6-propyloxybenzothiophene-2-carboxylate | C(C)OC=1C(=CC2=C(C=C(S2)C(=O)OC)C1)OCCC | C15H18O4S
